US07205296B2
Analogous to the sulfonylurea urea formation described in Ex 5, 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one (0.017 g, 0.058 mmol) and (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester (0.026 g, 0.096 mmol) were coupled to give 1-(5-chlorothiophen-2-ylsulfonyl)-3-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)urea (0.007 g, 24%). RP-HPLC: 2.7 min; ES-MS (M+H)+=512.0; 1H-NMR (MeOH-d4) δ (ppm): 2.82 (s, 3), 5.4 (s, 2), 6.2 (d, 1), 6.9 (d, 1), 7.3 (d, 1), 7.6 (dd, 1), 8.0 (d, 1), 8.1 (d, 1).

reactant | sulfonylurea urea | NC(=O)N.S(=O)(=O)=NC(=O)N
reactant | 3-(6-aminopyridin-3-yl)-6-fluoro-7-(methylamino)-2,3-dihydrobenzo[e][1,3]oxazin-4-one | 0.058 mmol, 0.017 g | NC1=CC=C(C=N1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C14H13FN4O2
reactant | (5-Chloro-thiophene-2-sulfonyl)-carbamic acid ethyl ester | 0.096 mmol, 0.026 g | C(C)OC(NS(=O)(=O)C=1SC(=CC1)Cl)=O | C7H8ClNO4S2
product | 1-(5-chlorothiophen-2-ylsulfonyl)-3-(5-(6-fluoro-7-(methylamino)-4-oxo-2H-benzo[e][1,3]oxazin-3(4H)-yl)pyridin-2-yl)urea | 0.007 g, 24% | ClC1=CC=C(S1)S(=O)(=O)NC(=O)NC1=NC=C(C=C1)N1COC2=C(C1=O)C=C(C(=C2)NC)F | C19H15ClFN5O5S2
